US06756409B2
1-[2-Cyano-3-(trifluoromethyl)phenoxy]-3-hydroxybenzene
Resorcinol [44.0 g (0.4 mol)] is partly dissolved in 170 ml of N-methylpyrrolidone, and potassium hydroxide [min. 85% pure; 34.5 g (0.52 mol)] and then 2-chloro-6-(trifluoromethyl)benzonitrile [20.5 g (0.1 mol)] are added. The mixture is stirred at 60-65° C. for 2.5 h. After addition of 300 ml of toluene and 400 ml of water, the aqueous phase is separated off and extracted once more with 300 ml of toluene. The combined organic phases are dried over MgSO4 and, after filtration, concentrated. Digestion of the oily residue with 150 ml of water, filtration and drying affords pale brownish crystals.

reactant | Resorcinol | 0.4 mol, 44.0 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | potassium hydroxide | 0.52 mol, 34.5 g | [OH-].[K+]
reactant | 2-chloro-6-(trifluoromethyl)benzonitrile | 0.1 mol, 20.5 g | ClC1=C(C#N)C(=CC=C1)C(F)(F)F | C8H3ClF3N
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | N-methylpyrrolidone | 170 ml | CN1C(CCC1)=O | C5H9NO
solvent | water | 400 ml | O | H2O
product | 1-[2-Cyano-3-(trifluoromethyl)phenoxy]-3-hydroxybenzene | C(#N)C1=C(OC2=CC(=CC=C2)O)C=CC=C1C(F)(F)F | C14H8F3NO2
